Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])[H:12]>>[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])[H:12],1.06232183362
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11]>>[C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11].[O:1]=[C:2][H:3],3.7629408291800006
[O:1]=[C:2]([H:3])[C:4]#[C:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]([H:3])[C:4]1[C:5][C@:6]1([H:7])[C:8]([H:9])([H:10])[H:11],1.69756348653
[H:1][O:2][C:3]#[C:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10]>>[H:10].[H:1][O:2][C:3]#[C:4][C:5]([H:6])=[C:7]([H:8])[H:9],2.26921139301
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]#[C:10][C:11]([H:12])([H:13])[H:14].[H:9]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7]/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14],-2.13489725857
[H:1][C:2]([H:3])([C:4]=[C:5]([H:6])[H:7])[O:14][C:11]([C:8]([H:9])[H:10])([H:12])[H:13]>>[H:1][C:2]1([H:3])[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14]1,-1.30753458776
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10]>>[C:1]#[C:2][O:3][H:4].[C:5]([H:6])#[C:7][C:8]([H:9])[H:10],2.63556943271
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]#[C:4][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:5],2.29166752855
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:8],4.45532007899
[C:2]([H:3])([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:1]>>[O:1][C@@:2]([H:3])([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.3045008736
[H:1][C:2]=[C:3]([O:4][O:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:7]([H:8])([H:9])[H:10].[H:1][C:2]#[C:3][O:4][O:5][H:6],1.93170961058
[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.36182975756
[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[O:10][H:11]>>[C:4]([H:5])#[C:6][C:7]([H:8])([H:9])[O:10][H:11].[O:1]=[C:2][H:3],1.43657552525
[H:1][O:2][C:3][C:4]([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7][H:8],3.80125600767
[O:1][O:2][C:3]([H:4])[C@:8]([C:5]([H:6])[H:7])([H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1][O:2][C@:3]1([H:4])[C:5]([H:6])([H:7])[C@@:8]1([H:9])[C:10]([H:11])([H:12])[H:13],-1.64191080585
[C:5]([H:6])([H:7])[H:8].[H:1][O:2][C:3]([H:4])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])[H:17]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])[H:17],-3.81241960956
[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])[C:4]#[C:5][H:6]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-3.61646502246
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][C:2]([H:3])=[C:4],3.4928947924800005
[C:5]([H:6])([H:7])=[C:8][C:9]([H:10])([H:11])[H:12].[O:1][C:2]#[C:3][H:4]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12],-1.45621520343
[C:1]#[C:2].[C:3]([O:4][C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][C:3]([O:4][C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-6.939179233300001
[H:1][C:2][C@:3]1([H:4])[C:5]([H:6])([H:7])[C@@:8]1([H:9])[O:10][O:11][H:12]>>[H:1][C:2]=[C:3]([H:4])[C@:8]([C:5]([H:6])[H:7])([H:9])[O:10][O:11][H:12],0.2870280880999999
[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3]([H:4])([C:6]#[C:5][C:10]([H:11])([H:12])[H:13])[H:9].[H:1][C:2]#[C:7][H:8],1.08180373115
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12]>>[H:1][O:2]/[C:3]=[C:5](\[H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12].[H:4],4.87240112389
[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[H:10]>>[C:8]([H:9])[H:10].[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7],5.1957566
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[O:11][H:12]>>[H:12].[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[O:11],1.46788604239
[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7][H:8])[C:10]([H:11])([H:12])[H:13].[H:9],5.01204851479
[O:1]=[C:2]([C:3][H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10]>>[C:2](#[C:3][H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10].[O:1],2.80731451713
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12],1.99804821622
